US09326987B2
6-(1H-Indol-4-yl)-4-{5-[(methylsulfonyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole
4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole (50 mg, 0.102 mmol) and sodium methanesulfinate (10.42 mg, 0.102 mmol) in ethanol (0.8 ml) were heated under microwave irradiation to 100° C. for 30 mins then 150° C. for 30 min, followed by 150° C. for a further 30 mins. Additional sodium methanesulfinate (10.42 mg, 0.102 mmol) was added and the reaction heated to 150° C. for a further 30 mins. The solvent was removed and the resultant beige solid treated with isopropanol (1 ml) and 2M aqueous sodium hydroxide (1.003 ml, 2.006 mmol) and stirred at 20° C. for 20 h. The mixture was neutralised with 2M aqueous hydrogen chloride, evaporated to dryness and azeotroped with isopropanol (2 ml). The residue was partitioned between dichloromethane (5 ml) and water (5 ml) and shaken vigorously. The aqueous phase was pipetted off, then the heterogeneous solution was treated with methanol (5 ml), absorbed onto Florisil and the solvents removed. The Florisil was placed on top of a silica cartridge (10 g) and eluted with 0-3% methanol/dichloromethane. Appropriate fractions were combined and concentrated to give a beige solid, 16 mg. Further purification by Mass Directed Automated Preparative HPLC afforded the title compound as a white solid (5 mg).

reactant | 4-[5-(Chloromethyl)-1,3,4-oxadiazol-2-yl]-6-(1H-indol-4-yl)-1-(phenylsulfonyl)-1H-indazole | 0.102 mmol, 50 mg | ClCC1=NN=C(O1)C1=C2C=NN(C2=CC(=C1)C1=C2C=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C24H16ClN5O3S
reactant | sodium methanesulfinate | 0.102 mmol, 10.42 mg | CS(=O)[O-].[Na+]
reactant | sodium methanesulfinate | 0.102 mmol, 10.42 mg | CS(=O)[O-].[Na+]
reactant | sodium hydroxide | 2.006 mmol, 2M, 1.003 ml | [OH-].[Na+]
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | ethanol | 0.8 ml | C(C)O | C2H6O
solvent | isopropanol | 1 ml | C(C)(C)O | C3H8O
product | 6-(1H-Indol-4-yl)-4-{5-[(methylsulfonyl)methyl]-1,3,4-oxadiazol-2-yl}-1H-indazole | 5 mg | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=NN1)CS(=O)(=O)C | C19H15N5O3S
